### PR TITLE
Add Lean improvements

### PR DESCRIPTION
**Pull request by JuanCoRo**
This PR incorporates and propagates feedback provided by @Ferinko ( :pray:  ), which includes:

- Proper use of the `namespace`/`section` layout
- Better function definitions
- Replacement of `by rfl` to `rfl` proofs to indicate definitional equality instead of reflexivity
- Abundant proof optimizations with `aesop`

### CODE REVIEW

File: EvmEquivalence/Utils/IntUtils.lean [hunk 1]
```diff
@@ -1,9 +1,8 @@
 import Mathlib.Order.Defs.LinearOrder
 import Mathlib.Order.Lattice
+import Aesop
 
-theorem le_fls_of_lt {n m : Nat} (h : n < m) : (m ≤ n) = False := by
-  simp [eq_iff_iff, iff_false, not_le]; assumption
+theorem le_fls_of_lt {n m : Nat} (h : n < m) : (m ≤ n) = False := by aesop
```
Comment (Ferinko) [inline EvmEquivalence/Utils/IntUtils.lean:5]: I would be surprised if you needed this particular statement of this result :).

**Review by Ferinko — COMMENTED** [review]
LG(reat)TM :).

File: EvmEquivalence/Utils/IntUtils.lean (hunk 1 above)
Comment (JuanCoRo) [reply EvmEquivalence/Utils/IntUtils.lean]: Indeed! Not needed at all! :slightly_smiling_face:

**Review by tothtamas28 — APPROVED** [review]
